Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"anxiety and hearing voices"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ with history of schizophrenia, alcohol use 
disorder, and suicide attempts, who was brought to the ED by EMS 
after he presented to a fire station reporting anxiety, CAH to 
harm himself, and multiple somatic symptoms. Psychiatry is 
consulted for safety assessment. Patient reports that he is 
actually from ___, and previously received all of his 
psychiatric care there (reports he had a "crisis team" and many 
admissions to ___-levels of care). He states that he moved to 
___ 4 months ago to live with his brother, at the 
insistence of his family (who all live here). However, he 
reports that during this time, he has had no outpatient mental 
health care and no access to his psychiatric medications. He 
reports that ___ days ago, he left ___ for ___ because 
he had a court date scheduled for today. He has been wandering 
the streets during this time and not sleeping. When asked why he 
came into the city days before his court date with nowhere to 
stay, patient stated "I just hadn't been into the city in a 
while and I looked up the weather and it looked like it was 
going to be nice, so I figured I would just come here." Patient 
states that he does not know the phone numbers of any of his 
family members. He reports that in the last week in particular, 
he has been experiencing worsening anxious mood, insomnia, and 
command auditory hallucinations of multiple voices saying 
derogatory things to him and telling him to kill himself. 
Patient reports that he does not want to die and does not have 
intent to act on these voices, but that they are becoming 
intrusive and bothersome. He reports that this is typically what 
happens when his illness decompensates. He endorses fatigue from 
lack of sleep and denies elevated mood, irritability, 
grandiosity, paranoia, or homicidal ideation. He denies that the 
voices tell him to harm others. He also denies low mood or 
hopelessness. Patient states that he would like to restart his 
psychiatric medications and find a psychiatrist in ___.
.
.
.
COLLATERAL: 
#Per outpatient treatment center in ___, patient carries a 
diagnosis of schizophrenia and frequently presents with ___ to 
harm himself, was last admitted in ___ and was last on 
a regimen of chlorpromazine and aripiprazole. Per BEST, patient 
was evaluated at ___ on ___ and discharged to a CCS. Per 
___ crisis team, he was placed in CSUs two other times in the 
last month."

___ behavioral health crisis team: He was placed at ___ twice 
this month. Discharged to outpatient services on ___ notes 
don't have much detail. On ___ he was also seen and dispo'd to 
outpatient services. They don't have any information about 
community providers or collateral sources. 

#BEST: Last seen ___ at ___, sent to CCS. At that point he 
reports he was pulled over in ___ and had a warrant, 
history of being charged w/ "possession". Feeling overwhelmed, 
had panic attack, reporting AH. This was the first time they 
evaluated him. 

#The ___, ___: ___ ___, 
Outpatient Nurse ___ from inpatient unit on ___ 
because patient moved to ___. Seen by ___ Crisis unit on 
___ - ___. Last had symptoms of CAH, but unclear what 
they ___ were saying. At time of discharge patient was 
medication compliant, attending all case management 
appointments. Per nursing, patient is "mellow and not violent." 
But often suffers from ___. 
.
.
.
In the ED, patient received thorazine 50mg QHS per psychiatry 
recommendation on review of home medications. Home aripiprazole 
was held. No evidence of leukocytosis, vitals stable. Medically 
cleared. No acute behavioral events or restraints. 
.
.
.
On arrival to the inpatient unit, patient states he is here 
because he was "brought in by ambulance." He endorses symptoms 
prior to presentation of "anxiety" and "voices." Per patient's 
report he has been off his medications for 4 months due to lack 
of local prescribers and lack of income to pay for medication 
copays. Due to lack of access to medications he reports 
difficulty sleeping and increased "voices." Prior to 
presentation however, he has been up for 3 days straight and has 
not felt tired. As a result, the number, frequency, volume, and 
command nature of the voices has increased. Prior to being 
brought in by ambulance, he reported hearing up to 10 voices, 
several of which were telling him to kill himself. Currently on 
interview, following sleep and Thorazine last evening, he 
endorses only ___ voices. One is a man's voice, the other is a 
woman's voice. The woman's voice occurs at night usually and 
frequently on ___ He denies recognizing the voices. 
Currently on interview, they are present but are only 
"whispers." When he is on medications or he is "busy" such as 
when he is employed and working as an ___, he can 
"ignore them."

He is currently living in ___ taking care of his brother 
with "colon cancer." He states that "when" his brother passes he 
will likely return to ___. He states that he has a good team 
out in ___. When he has trouble sleeping he usually 
immediately presents to a CCS in ___. He gets his meds, 
sleeps, and then usually leaves. He has two prior suicide 
attempts by being "hit by a car." On clarification as to whether 
he ran into traffic, patient reports he "jumped into a moving 
vehicle." He identifies with a diagnosis of schizophrenia though 
denies thought broadcasting/insertion, paranoia, ideas of 
reference, grandiosity. He reports the auditory hallucinations 
started in ___. He states that his medications in ___ were 
Thorazine (not sure), Hydroxyzine and Risperidal (2mg). He 
states that two of his brothers have schizophrenia. 

He denies access to firearms, recent or current alcohol, 
marijuana, or substance use. He was licensed as a ___ 
in ___ and is a ___. 

On arrival to ___ he endorsed diarrhea and blood in his stool. He 
states that this has since resolved. In the AM he reports 
feeling "dizzy" and nauseous when waking up for first 15 minutes 
then self resolving. He denies this currently. 

REVIEW OF SYSTEMS: -Psychiatric: +AH, +Anxiety, +insomnia Denies 
depressed mood, fatigue/loss of energy, anhedonia, thoughts of 
death/SI, delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal.

 -General: Denies current changes in vision, polyuria, SOB, CP, 
palpitations, abdominal pain, nausea, diarrhea, dysuria, 
increased urinary frequency
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Hospitalizations: Patient reports 
"about 150" inpatient stays since ___ (although unclear how 
many of these were CSU-levels of care vs. inpatient psychiatric 
units). He endorses many crisis stabilization unit admissions. 
Current treaters and treatment: None. Previously was treated in 
___ at The ___; states he had a crisis 
team there. Medication and ECT trials: Per patient, risperidone 
and lorazepam (not confirmed on collateral). Per The ___ 
___, ___, he was on chlorpromazine and aripiprazole. 
Self-injury: SA x3 in ___ (once by hanging and twice by jumping 
in front of moving vehicles). Harm to others: Denies. Access to 
weapons: Denies.
Past psychiatric diagnosis: schizoid PD, GAD, Schizophrenia 
Unspecified, Alcohol Dependence, Cannabis Use Disorder, in ___ 
had diagnosis in Bipolar disorder Hospitalizations: recently at 
crisis stabilization unit at the ___ (discharged on 
___
.
PAST MEDICAL HISTORY: Denies. 
.
MEDICATIONS [Per The ___, ___ ___: - 
Chlorpromazine 75mg PO QHS - Aripiprazole 30mg PO Daily
.
ALLERGIES: NKDA.
.
SUBSTANCE ABUSE HISTORY: Patient has history of disordered 
alcohol use and cannabis use. He denies history of complicated 
alcohol withdrawal. He states he has been sober from all 
substances except tobacco for the past ___ years. Endorses smoking 
___ PPD. Offered nicotine replacement in the ED, but patient 
declined.
.
FORENSIC HISTORY: ___
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Patient's two brothers both have 
schizophrenia. A third brother died of a substance overdose. He 
denies other known family psychiatric history or known family 
history of suicide. 
 
Physical Exam:
VITAL SIGNS:
T 98.0
BP 108 / 71 
HR 79 
RR 18 
O2 97   

EXAM:
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes, 
oropharynx clear. No scleral icterus, 
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no 
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No 
tenderness to palpation in all quadrants. No guarding, no 
rebound tenderness.
 -Extremities: Warm and well-perfused. No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 5mm, equal, round
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to finger rub bilaterally, L. < R. 
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in 
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: 2+ patellar, biceps, 
 Coordination: Normal on finger to nose test, no intention 
tremor noted
 -Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  

Absence of resting tremor, absence of action tremor
Absence of rigidity or spasticity

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 1 error, ORANGE backwards with 2 
errors
 -Orientation: ___ ___, 
 -Executive function (go-no go, Luria, trails, FAS): 
     absence of ideomotor apraxia: able to brush teeth, comb 
hair
     Luria 3 step intact 
 -Memory: Violet after 10 minutes ___. 
 -Fund of knowledge: Consistent with education; intact to last 4 
presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: Grass is greener on the other side = things will 
get better. Tongue is enemy of neck = "watch your p's and q's"
 -Visuospatial: L thumb to R. ear; does opposite at first then 
corrects 
 -Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
 -Appearance/Behavior: appearing older than stated age, stubble, 
poor dentition, malodorous, in hospital gown, no psychomotor 
agitation, no tremor, fair eye contact 
 -Attitude: Cooperative, engaged, friendly
 -Mood: "okay"
 -Affect: Mood-congruent, full range, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: +AH, not appearing to be attending to
internal stimuli
 -Insight: fair
 -Judgment: fair

 
Pertinent Results:
___ 02:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:55PM   ALT(SGPT)-26 AST(SGOT)-29 ALK PHOS-95 TOT 
BILI-0.6
___ 02:55PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___:55PM   GLUCOSE-96 UREA N-15 CREAT-0.8 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-24 ANION GAP-12

OTHER ENZYMES & BILIRUBINS Lipase 
___ 14:55    20 

Cholesterol, Total 193 0 - 199 mg/dL E 
LIPID/CHOLESTEROL 
Triglycerides 322* 0 - 149 mg/dL E 
Cholesterol, HDL 46 >40 mg/dL E 
Cholesterol Ratio (Total/HDL) 4.2   Ratio E 
Cholesterol, LDL, Calculated 83 0 - 129 mg/dL E 
  LDL(calc) invalid if Non- Fasting sample. 

Thyroid Stimulating Hormone 1.9 0.27 - 4.2 uIU/mL E 

DIABETES MONITORING %HbA1c eAG 
___ 13:42    5.71 1172 

 
Brief Hospital Course:
LEGAL & SAFETY: On admission, the patient signed a conditional 
voluntary agreement (Section 10 & 11) and remained on that level 
throughout his admission. Mr. ___ signed a 3-day notice on 
day of admission and was able to reiterate and demonstrate 
understanding of his legal rights as well as decision making. He 
was placed on 15 minute checks status and green (no sharp 
restrictions) on admission and remained on that level of 
observation throughout while being unit restricted. He was found 
to meet SAFE-T criteria Moderate on admission which was 
subsequently decreased to Low prior to discharge. 

PSYCHIATRIC: 
On admission to the unit patient endorsed auditory 
hallucinations of ___ voices.  He reported one voice was a 
male's voice second voice was a female's voice. He states they 
occurred on certain days of the week. He expected the females 
voice to occur on the evening of admission given that it was a 
___. He denied recognizing the voices and stated that 
currently they are more like whispers/murmurs. He reported that 
when he is busy he is able to "ignore them." On further 
clarification he stated that the voices are exacerbated by lack 
of sleep and nonadherence to medication. He acknowledged that he 
has not slept for the last 3 nights and has been off his 
medications for "months" due to high co-pays and inability to 
afford cost. On arrival to the unit he denied suicidal ideation 
or command auditory hallucinations.  He identified with and 
endorsed a prior diagnosis of schizophrenia though denied 
thought broadcasting/insertion, paranoia, ideas of reference, 
grandiosity. Mental status exam was notable for a malodorous 
gentleman with poor dentition without tremor, good eye contact. 
He was friendly, appropriate and engaged on interview with a 
euthymic, full, reactive affect. He was appropriate and related 
well to interviewer utilizing humor appropriately. He was 
linear, goal directed, without evidence of disorganization. 
Speech was of normal rate, volume, and prosody. He reported AH 
though did not appear to be responding to internal stimuli. 
Insight and judgment appeared fair. Cognitive exam was evident 
for mild deficits in attention  with preservation of executive 
function.  

Diagnostically patients initial presentation in the emergency 
department appeared consistent with primary psychotic disorder 
given report of command auditory hallucinations telling patient 
to kill himself. Collateral was notable for good utilization of 
voluntary hospitalizations and prior diagnoses of unspecified 
psychotic vs. mood disorder, prior suicide attempts, and low 
dose antipsychotic medications. Patient and record endorsed 
inconsistent history of substance use disorder. On arrival to 
the unit, patient appeared linear, organized, euthymic and full 
in affect and did not appear to be responding to internal 
stimuli. He endorsed resolution of command auditory 
hallucinations following sleep and low dose thorazine. On the 
unit patient remained in bed and endorsed intermittent vague 
somatic symptoms including some feelings of restlessness and 
nausea requesting hydroxyzine and anti-nausea medications. 
Patient's vital signs were stable, urinary toxicology screen was 
negative, and he consistently denied substance use. Given rapid 
resolution, inconsistent reports, and somatic symptoms most 
consistent diagnosis is substance induced psychotic disorder vs. 
bipolar disorder with psychotic features.  

We continued patient's outpatient thorazine 50mg and provided 
hydroxyzine 25mg BID:PRN for anxiety. We discussed risks and 
benefits of antipsychotic medication and obtained an updated 
lipid panel and A1c as well as ECG to monitor for QTc. Patient 
endorsed improved sleep and decrease in volume and intensity of 
auditory hallucinations, describing them as murmurs/whispers 
prior to discharge. On discharge Mr. ___ denied suicidal 
ideation, was future oriented. He was well groomed, demonstrated 
a euthymic, full, reactive affect, linear organized thought 
process and did not appear to be responding to internal stimuli. 
We coordinated with social work to assist patient with access to 
insurance. We clarified and notified patient that he had access 
to ___, provided a 14 day supply of medication hand 
delivered to patient prior to discharge. We arranged for follow 
up with a partial program for continued psychiatric care, 
tobacco use counseling and treatment, and assistance with access 
to community resources. We established follow up with a primary 
care physician and intake for therapist.    

Future interventions include utilization of outpatient resources 
for assistance with community resources as well as continued 
evaluation of psychiatric disorder for diagnostic clarification 
and symptom management. Patient will benefit from engagement 
with a therapist for psychotherapy given current life stressors, 
lack of stability, and coping with loss.  
 

SUBSTANCE USE DISORDERS: 
Patient endorsed smoking ___ a pack a day of cigarettes. He 
denied interest in nicotine replacement therapy thought this was 
offered on a daily basis. We engaged in tobacco use treatment 
and counseling.As mentioned above, despite negative urine 
toxicology and patient's denial of substance use, somatic 
symptoms, insomnia and hypersomnia, and rapid improvement is 
concerning for substance induced psychiatric presentation. 
Patient denies current or history of alcohol use disorder though 
this is reported intermittently in history from ___ 
___. There is no clarifying information at this 
time. Follow up appointments with primary care physician, 
___, and therapist are for continued evaluation of 
tobacco use disorder as well as potential other substance use 
disorders and counseling. 

 
MEDICAL
 #metabolic monitoring
we obtained A1c, updated lipid panel and ECG, and electrolyte 
monitoring. We discussed of risk/benefits of antipsychotic 
treatment. 

 #microscopic hematuria
Patient was noted to have microscopic blood and RBC's on ___. 
Recommend follow up with PCP to repeat ___ outpatient. If 
persistence, PCP to consider referral to urology for further 
workup given smoking history and age. 

 
PSYCHOSOCIAL 
#GROUPS/MILIEU: The patient was encouraged to participate in the 
various groups and milieu therapy opportunities offered by the 
unit. The patient attended projects group prior to discharge 
that focused on teaching patients various coping skills. 

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT #INTERVENTIONS 
- Medications: Thorazine 50mg QHS and nicotine replacement 
therapy. 
- Psychotherapeutic Interventions: We engaged in daily 
motivational interviewing and supportive therapy. We encouraged 
the utilization of OT led Individual, group, and milieu therapy. 

- Coordination of aftercare: PCP, ___, referral to 
therapy. 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
encouraged tobacco use treatment and counseling. Encouraged 
positive coping skills and engaged in motivational interviewing. 

-Guardianships: N/A

RISK ASSESSMENT & PROGNOSIS On presentation, the patient was 
evaluated and felt to be at an increased risk of harm to herself 
and/or others based upon command auditory hallucinations. His 
static factors noted at that time include history of suicide 
attempts, chronic mental illness, ?history of substance abuse, 
male gender. The modifiable risk factors were also addressed at 
that time psychosis, medication noncompliance, lack of 
engagement with outpatient treatment, limited social supports, 
limited coping skills, no established outpatient treatment, 
insomnia,?active substance abuse. We continued thorazine and 
provided medications on discharge, clarified access to 
___, arranged for followup psychiatric and social 
services, engaged in daily motivational interviewing, and 
provided substance use treatment and counseling. Finally, the 
patient is being discharged with many protective risk factors, 
help-seeking nature, future-oriented viewpoint, life 
satisfaction, reality testing ability, good problem-solving 
skills, lack of suicidal ideation, social supports. Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ChlorproMAZINE 75 mg PO QHS 
2. ARIPiprazole 30 mg PO DAILY 

 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q4H:PRN nicotine cravings  
2.  ChlorproMAZINE 50 mg PO QHS 
RX *chlorpromazine 50 mg 1 tablet(s) by mouth at bedtime Disp 
#*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia, paranoid, chronic, acute exacerbation
Nicotine use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___